Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
EGD (Esophagogastroduodenoscopy)
Colonoscopy
Flexible Sigmoidoscopy

 
History of Present Illness:
___ y/o male with T2DM, ESRD on HD TTHS, CHF EF 20%, afib on 
coumdin admitted with fatigue X 1 month with anemia. He 
initially went to his PCP who sent him to the ED. Plan had been 
for outpatient colonoscopy however concern that patient will not 
be able to prep at home and on coumadin.  
.  
In the ED, reports no BRBPR or melena. No CP/SOB/Dizziness. Pt 
said he feels well, no n or v or diarrhea, sob or cp. He had a 
sigmoidoscopy ___ years ago which was negative by patient report 
and has never had a colonoscopy.  
.  
In the ED, initial VS: 98.2, 83, 149/63, 16, 100%/RA. Abd 
benign. Stool brown guiaic positive. Labs with Hct 25.9 
(baseline 33.2 in ___), INR 2.8, creatinine 3.9. CXR with small 
left pleural effusion. EKG with afib. One PIV and type and 
screen were being sent. On transfer: T 97.9, 107, 146/79, 16, 
96/RA.  
.  
On the floor, he notes that he has had weakness for 2 months, 
worse always after dialysis. He had dialysis today and it was a 
full session. He does not use CPAP for OSA. He denies abd pain, 
N/V/D. states that he has had reflux for the past couple of 
months and uses Prilosec sometimes. He is very concerned about 
not being able to sleep without his usual ambien.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.
 
Past Medical History:
. Type 2 diabetes mellitus  
2. ESRD- Most likely multifactorial from diabetic nephropathy  
and obstructive nephropathy. On dialysis since ___.  
3. Atrial fibrillation- Pt is anticoagulated on coumadin.  
4. Hypertension  
5. CHF outpatient TTE ___ with LVEF ___  
6. Obesity  
7. Gout  
8. PVD  
9. Anemia of chronic disease- Secondary to renal dysfunction.  
10. Sleep apnea  
11. Autonomic dysfunction (no longer on midodrine and 
fludrocort)  

 
Social History:
___
Family History:
(per OMR) His grandparents and father have hypertension and 
diabetes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:97.3, 90, 20, 148/81, 96/RA, 175.3 lbs  
tele: ___, brady to 40  
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, dry MM, OP clear. 
 
NECK: Supple, no JVD.  
HEART: bradycardic and irregular, ___ holosystolic murmur 
loudest at midaxillarly line on left  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e  
SKIN: No rashes or lesions.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact 
but ___ throughout  
.
DISCHARGE PHYSICAL EXAM:
GENERAL: Well-appearing man in NAD, tired but comfortabl and 
appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric
NECK: Supple, no JVD.  
HEART: bradycardic and irregular, ___ holosystolic murmur 
LUNGS: CTA bilat, no r/rh/wh, good air movement 
ABDOMEN: Soft/NT/ND, no masses or HSM 
EXTREMITIES: WWP, no c/c/e   
LYMPH: No cervical LAD.  
NEURO: drowsy but A&Ox3, CNs II-XII intact, strength grossly 
intact 
 
Pertinent Results:
Initial Labs:
___ 07:00PM BLOOD WBC-5.9 RBC-2.74* Hgb-8.6* Hct-25.9* 
MCV-95 MCH-31.3 MCHC-33.1 RDW-14.4 Plt ___
___ 07:00PM BLOOD ___ PTT-34.7 ___
___ 07:00PM BLOOD Glucose-105* UreaN-22* Creat-3.9*# Na-144 
K-4.2 Cl-99 HCO3-35* AnGap-14
___ 05:35AM BLOOD LD(LDH)-151 TotBili-0.5
___ 05:35AM BLOOD Ret Aut-3.2
___ 07:00PM BLOOD Calcium-10.0 Phos-3.9 Mg-2.1 Iron-41*
___ 05:35AM BLOOD Hapto-194
___ 07:00PM BLOOD calTIBC-260 VitB12-1150* Folate-16.9 
Ferritn-629* TRF-200
___ 07:00PM BLOOD TSH-7.5*
___ 03:05PM BLOOD %HbA1c-4.9 eAG-94
___ 05:35AM BLOOD Free T4-1.2
___ 07:00PM BLOOD Digoxin-1.5
___ 05:40AM BLOOD Digoxin-1.3
___ 06:05AM BLOOD Digoxin-1.0

Other tests:
GI Biopsy (___):
Gastrointestinal mucosal specimens, three:
A.  Antral lesion, biopsy:
- Antral mucosa with prolapse-type injury; additional levels 
were examined.
B.  Proximal sigmoid colon polyp, polypectomy:
- Fragments of adenoma with extensive cautery artifact.
C.  Distal sigmoid colon polyp, polypectomy:
- Sessile serrated adenoma.
.
Colonoscopy Report (___):
Polyp in the proximal sigmoid colon (polypectomy, endoclip)
Polyp in the distal sigmoid colon (polypectomy)
Grade 1 internal hemorrhoids
Diverticulosis of the sigmoid colon
Otherwise normal colonoscopy to cecum
.
EGD Report (___):
Erythema and congestion in the antrum and stomach body 
compatible with gastritis
Mass in the antrum (biopsy)
Otherwise normal EGD to third part of the duodenum
.
Sigmoidoscopy Report (___):
We noted that there was a firmly attached blood clot at the 
proximal sigmoid colon. The location is high likely the previous 
polypectomy site at the proximal sigmoid colon. Because the clot 
was firmly attached, we did not try to dislodge the blood clot.
Otherwise normal sigmoidoscopy to distal descending colon
.
Discharge Labs:
___ 12:55PM BLOOD Hct-27.6*
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-86 UreaN-50* Creat-8.5*# Na-142 
K-4.7 Cl-98 HCO3-33* AnGap-16
___ 07:15AM BLOOD Calcium-9.1 Phos-4.5 Mg-2.___ yo M with CHF EF 20%, ESRD on HD TTHSa, AF on coumadin 
presenting to PCP with fatigue and admitted for inpatient 
colonoscopy prep for evaluation of anemia, developed with lower 
GI bleed at polypectomy site in the setting of re-starting 
anticoagulation
.
# Normocytic Anemia: The patient presented to his Primary Care 
Physian with an 8 pt drop in Hct and guaiac-positive brown 
stools. He was referred to the ED for an expedited work-up for 
GI blood loss. His Fe studies revealed a serum Fe low-normal at 
41, non-elevated TIBC, and elevated Ferritin most consistent 
with chronic inflammation, but not ruling out a component of 
iron deficiency. Other causes of anemia to be considered include 
EPO-resistance and loss of blood during HD. His Coumadin was 
held and he was placed on a Heparin gtt for bridging, given his 
CHADS2 score of 4. He underwent an EGD and Colonoscopy that 
found mild gastritis, an antral lesion (biopsied) and two 
colonic polyps that were removed, but nothing to explain acute 
anemia. Biopsy report showed adenomas. He was continued on a PPI 
and 24 hours after the polypectomy his Coumadin and Heparin gtt 
bridge were re-initiated. He subsequently developed maroon 
stools indicating a lower GI bleed (addressed below). The 
patient should follow up with a Gastroenterologist in the 
future.    
.
# Post-Polypectomy Lower GI Bleed: The patient developed maroon 
stools three days after his colonoscopy with polyp removal. His 
anticoagulation (Heparin and Coumadin) was immediately 
discontinued. He was trasnfused 1U PRBC for a 2 pt drop in Hct. 
GI took the patient for a flexible sigmoidoscopy that revealed 
the likely site of bleeding - the distal polypectomy site, which 
now had a blood clot adhered to the lesion. We closely monitored 
his Hct, which increased appropriately with the blood 
transfusions and remained stable at ___. The patient remained 
asymptomatic and hemodynamically stable. It was decided to hold 
all anticoagulation for at least 10 days and restart on 
___. The decision to re-start anticoagulation should be 
also guided by his Cardiologist and Primary Care Physician. A 
repeat CBC to ensure stability should be obtained in 3 days 
after discharge, or earlier should he develop bloody or dark 
stools or symptoms suggesting acute anemia - dizziness, 
light-headedness, chest pain, dyspnea.
.  
# Fatigue: This was the patient's presenting complaint to his 
Primary Care Physician. There are a number of potential 
etiologies (including anemia) that can  be addressed in the 
outpatient setting. We found no evidence of underlying infection 
- no fevers, leukocytosis, and blood/urine cultures were 
negative. His cardiac rhythm is atrial fibrillation with widely 
varying rates from tachycardia to bradycardia; however, he 
reports not being aware of the rhythm. Thyroid studies revealed 
a mildly elevated TSH (7.5), but normal free T4. He denied any 
symptoms of depression, which could be presenting as fatigue. 
Further work-up, including age-appropriate cancer screening 
(such as for Prostate Cancer) can be continued by his Primary 
Care Physician.
.
# Atrial fibrillation: The patient presented on Digoxin 0.25 mg 
QOD and Metoprolol XL 12.5 daily, both of which he reported not 
taking accurately. Digoxin levels were within normal limits. He 
was monitored on telemetry, which revealed widely varying rates 
from tachycardia to 150s and bradycardia to ___ (all transient). 
He was never symptomatic. Because of his CHADS2 score of 4, we 
elected to discontinue his Coumadin in anticipation of his 
colonoscopy and bridge him with a Heparin gtt (as described 
above). Because he had a complication (lower GI bleed from 
polypectomy site) we are asking him to hold his Coumadin for at 
least 10 days (restarting on ___. He should also discuss 
his coumadin with his cardiologist in case it is deemed higher 
risk than reward in setting of recent GI bleed.
.
# Chronic Systolic CHF: EF 20%. No evidence of acute 
exacerbation during this admission. He was continued on his 
outpatient Lasix 160 mg daily and Metoprolol 25 mg daily.  
.  
# ESRD: Continued on hemodialysis ___, and 
___. Also continued on PhosLo 1334 TID, Cinalcalcet 30 
daily, Nephrocaps daily.  
.  
# HTN: Remained normotensive to mildly hypertensive. Continued 
hemodialysis in house and Metoprolol Succinate 12.5 daily.
.  
# Hx of Autonomic Dysfunction: Patient is no longer on Midodrine 
and Fludrocort.
.
# BPH: Continued outpatient Flomax 0.4 mg qhs.
.  
# Gout: Continued outpatient Allopurinol ___ mg QOD (renal dose)
.  
# Hypothyroidism: TSH 7.5, FT4 normal. Continued Levothyroxine 
25 mcg daily.
.  
# Reported DMII: Patient did not have elevated FSBG levels. Hgb 
A1c was 4.9.
.
# Full Code
.
# Disposition: Patient was evaluated by Physical Therapy who 
recommended discharge to rehab for continued strength building 
and balance training. 
.
# To Do:
-Address the re-initiation of anticoagulation with Coumadin
-Consider further work up for anemia, including a capsule study
 
Medications on Admission:
No longer takes Midodrine/Fludrocort  
Flomax 0.4 mg 24 hr Cap daily  
Sensipar 30 mg Tab daily  
Allopurinol ___ mg Tab daily  
Digoxin 250 mcg Tab QOD (has been taking daily) 
Ambien 5 mg Tab QHS PRN  
Unithroid 25 mcg Tab daily   
Warfarin alternates 3mg and 4mg, last was yesterday ___ when 
took 3mg  
PhosLo 667 mg Cap, 2 caps with meals  
Toprol XL 12.5 mg 24 hr Tab daily 
Lasix 160 mg daily 
 
Discharge Medications:
 

1. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
2. Sensipar 30 mg Tablet Sig: One (1) Tablet PO once a day.  
3. allopurinol ___ mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
4. digoxin 125 mcg Tablet Sig: Two (2) Tablet PO EVERY OTHER DAY 
(Every Other Day).  
5. levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
7. warfarin 2 mg Tablet Sig: ___ Tablets PO once a day: Do NOT 
restart this medication until ___
Once restarted, alternate 3mg and 4mg from day to day.  
8. furosemide 80 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
9. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
0.5 Tablet Extended Release 24 hr PO DAILY (Daily).  
10. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
11. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
normocytic anemia
post-polypectomy lower gastrointestinal bleed
atrial fibrillation
chronic systolic congestive heart failure
end stage renal disease on hemodialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
.
You were recently admitted to the Medicine service for 
evaluation of your anemia (low blood count). You underwent an 
upper endoscopy and colonoscopy, which did not show any active 
bleeding. After the procedure we started you back on blood 
thinners, but you experienced bleeding from your rectum at the 
site of where they removed a polyp. You required a couple blood 
transfusions but then your bleeding slowed and your blood counts 
stabilized. We are asking you to hold your Coumadin for at least 
10 days and re-start your home dose on ___. 
.
We are making the following changes to your outpatient 
medication regimen:
-Please STOP Coumadin until ___, then restart on ___. 
Please discuss your coumadin therapy with your cardiologist at 
next visit.
-Your allopurinol dose was lowered from 300mg by mouth once 
daily to 100mg by mouth once every other day due to your kidney 
issues
-Please continue all other medications as prior
 
Followup Instructions:
___